### PR TITLE
feat(Tactic/ClearUnneeded): add `clear_unneeded` tactic

### PR DESCRIPTION
**Pull request by GrigorenkoPV**
---

The simplest version suggested in https://github.com/leanprover-community/mathlib4/issues/25319

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/ClearUnneeded.lean [hunk 1]
```diff
@@ -0,0 +1,65 @@
...
+/-- Removes unused hypotheses whose types satisfy `Nonempty` -/
+elab "clear_unneeded" : tactic =>
+  liftMetaTactic1 fun goal ↦ do
+    let mut toClear := #[]
+    for decl in ← getLCtx do
+      if ← isUnneeded decl then
+        toClear := toClear.push decl.fvarId
+    goal.tryClearMany toClear
+
+example (_a : Bool) : Bool := by
```
Comment (BoltonBailey) [inline Mathlib/Tactic/ClearUnneeded.lean]: Thanks for making test cases, could you move them to `MathlibTest/` like other tactic tests?

File: Mathlib/Tactic/ClearUnneeded.lean [hunk 2]
```diff
@@ -0,0 +1,65 @@
...
+  return inst.toOption.isSome
+
+private def isUnneeded (decl : LocalDecl) : MetaM Bool := do
+  if ← decl.fvarId.hasForwardDeps then
+    return false
+  if ← isNonempty decl.type then
+    return true
+  return false
+
+/-- Removes unused hypotheses whose types satisfy `Nonempty` -/
```
Comment (BoltonBailey) [inline Mathlib/Tactic/ClearUnneeded.lean]:
```suggestion
/-- 
Removes hypotheses that don't appear elsewhere in the goal 
and whose types satisfy `Nonempty`, which are therefore unneeded. 
-/
```
I worry this wording otherwise implies that this removes hypotheses that have not been accessed during the proof so far.

**Review by BoltonBailey — COMMENTED** [review]
Thanks for writing this, I am not an expert on tactic writing myself, but this is my review.

File: Mathlib/Tactic/ClearUnneeded.lean [hunk 3]
```diff
@@ -0,0 +1,43 @@
...
+Copyright (c) 2026 Pavel Grigorenko. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Pavel Grigorenko
+-/
+module
+
+public import Mathlib.Init
+public meta import Lean.Elab.Tactic.Basic
+
+/-! # `clear_unneeded` tactic -/
```
Comment (joneugster) [inline Mathlib/Tactic/ClearUnneeded.lean:11]: Please extend the module docstring with information about the tactic.

[Our style guide, §Header comment](https://leanprover-community.github.io/contribute/doc.html#documentation-style) tells you the format to follow

File: Mathlib/Tactic/ClearUnneeded.lean [hunk 4]
```diff
@@ -0,0 +1,43 @@
...
+  if ← decl.fvarId.hasForwardDeps then
+    return false
+  if ← isNonempty decl.type then
+    return true
+  return false
+
+/--
+Removes hypotheses that don't appear elsewhere in the goal
+and whose types satisfy `Nonempty`, which are therefore unneeded.
+-/
```
Comment (joneugster) [inline Mathlib/Tactic/ClearUnneeded.lean:34]: Our [Style guide, §Tactic documentation](https://leanprover-community.github.io/contribute/doc.html#tactic-documentation) also describes to format for this docstring.

File: MathlibTest/ClearUnneeded.lean [hunk 5]
```diff
@@ -0,0 +1,33 @@
...
+  exact true
+
+-- does not remove `a`, becasue `b` depends on it (via its type)
+example : Bool := by
+  let a : Bool := true
+  let b : a = true := by rfl
+  clear_unneeded
+  exact a
+
+-- does not remove `a`, becasue `b` depends on it (via its value)
```
Comment (joneugster) [inline MathlibTest/ClearUnneeded.lean]:
```suggestion
-- does not remove `a`, because `b` depends on it (via its value)
```

File: MathlibTest/ClearUnneeded.lean [hunk 6]
```diff
@@ -0,0 +1,33 @@
...
+-- removes both `a` and `b`
+example (a : Bool) : Bool := by
+  let b : Bool := true
+  clear_unneeded
+  fail_if_success assumption
+  fail_if_success exact a
+  fail_if_success exact b
+  exact true
+
+-- does not remove `a`, becasue `b` depends on it (via its type)
```
Comment (joneugster) [inline MathlibTest/ClearUnneeded.lean]:
```suggestion
-- does not remove `a`, because `b` depends on it (via its type)
```

File: MathlibTest/ClearUnneeded.lean [hunk 7]
```diff
@@ -0,0 +1,33 @@
...
+  exact a
+
+-- does not remove `a`, becasue `b` depends on it (via its value)
+example : Bool := by
+  let a : Bool := true
+  let b : Bool := a
+  clear_unneeded
+  exact a
+
+-- does not remove `a`, becasue we don't have `Nonempty` for `(true = true)`
```
Comment (joneugster) [inline MathlibTest/ClearUnneeded.lean]:
```suggestion
-- does not remove `a`, because we don't have `Nonempty` for `(true = true)`
```

File: MathlibTest/ClearUnneeded.lean
Comment (joneugster) [inline MathlibTest/ClearUnneeded.lean:1]: This tests already look good. Here are some more general ones:

```lean4
noncomputable example [h : Nonempty α] (a : α) (b : β) : α := by
  guard_hyp a
  clear_unneeded
  fail_if_success guard_hyp a
  guard_hyp b
  exact Classical.choice h

example [h : Inhabited α] (a : α) (b : β) : α := by
  guard_hyp a
  clear_unneeded
  fail_if_success guard_hyp a
  guard_hyp b
  exact default
```

unfortunately `guard_hyp` does not take "let-bindings". If it did, I would have recommended using it in all tests...

File: Mathlib/Tactic/ClearUnneeded.lean [hunk 8]
```diff
@@ -0,0 +1,43 @@
...
+module
+
+public import Mathlib.Init
+public meta import Lean.Elab.Tactic.Basic
+
+/-! # `clear_unneeded` tactic -/
+
+public meta section
+
+namespace Mathlib.Tactic
```
Comment (joneugster) [inline Mathlib/Tactic/ClearUnneeded.lean]:
```suggestion
namespace Mathlib.Tactic.ClearUnneeded

```

File: Mathlib/Tactic/ClearUnneeded.lean [hunk 9]
```diff
@@ -0,0 +1,43 @@
...
+Authors: Pavel Grigorenko
+-/
+module
+
+public import Mathlib.Init
+public meta import Lean.Elab.Tactic.Basic
+
+/-! # `clear_unneeded` tactic -/
+
+public meta section
```
Comment (joneugster) [inline Mathlib/Tactic/ClearUnneeded.lean]:
```suggestion
meta section
```
optional: you don't need this, but I don't think mathlib is yet at a point where this unnecessary `public`s are systematically removed. so up to you

**Review by joneugster — COMMENTED** [review]
Thank you for writing this tactic, which seems to be a useful tool!

Alongside with the comments below, could you also add a sentence to the PR description about what the tactic does? It should not be empty. This makes it easier to understand what the PR is about without following any links.

**Review by BoltonBailey — CHANGES_REQUESTED** [review]
Besides joneugster's suggestions, I also think it would be good if this could work recursively, so that e.g. `(a : Nat) (b : Fin (a + 1))` could get cleared.
